US07105503B2
Preparation of 4-[2-(4-Nitrophenyl)ethyl]morpholine
To a solution of 1-(2-bromoethyl)-4-nitrobenzene (460 mg, 2.0 mmol) in acetone (15 mL) was added morpholine (610 mg, 7.0 mmol) and 680 mg of K2CO3. The mixture was stirred for 80 hours at ambient temperature, and then poured into water. The aqueous mixture was extracted with ether. The organic layer was washed with brine, dried over MgSO4, and evaporated in vacuo to give 456 mg (1.93 mmol; 97%) of the title compound, which was converted to the appropriate amine by the method disclosed in Preparation 16.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 2.0 mmol, 460 mg | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | morpholine | 7.0 mmol, 610 mg | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 680 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 4-[2-(4-Nitrophenyl)ethyl]morpholine | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCOCC1 | C12H16N2O3
